US05840732
Synthesis of 4-amino-2-(3-ethoxycarbonylpropylthio) pyrimidine
In a nitrogen atmosphere, 28.6 ml (200 mmol) of ethyl 4-bromobutyrate was added to a solution of 25.44 g (200 mmol) of 2-thiocytosine and 30.7 ml (220 mmol) of triethylamine in 400 ml of ethanol at room temperature, followed by refluxing for 16 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in chloroform, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/4→1/9) to yield 46.31 g (96.0%, white crystal) of the desired product.

reactant | ethyl 4-bromobutyrate | 200 mmol, 28.6 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | 2-thiocytosine | 200 mmol, 25.44 g | N1C(=S)N=C(N)C=C1 | C4H5N3S
reactant | triethylamine | 220 mmol, 30.7 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 4-amino-2-(3-ethoxycarbonylpropylthio) pyrimidine | NC1=NC(=NC=C1)SCCCC(=O)OCC | C10H15N3O2S
